US04725602
A solution of 2.7 ml (0.027 mole) 1-hexyne in 10 ml dry (4 A sieves) tetrahydrofuran was cooled to 0° C. in an ice bath. Argon was passed over the solution 10.4 ml (0.027 mole) 2.69 M n-BuLi was added slowly via syringe through a serum cap. The resulting solution was stirred 20 minutes under argon. During this time, a second flask containing 3.2 g (0.027 mole) anhydrous zinc chloride was attached to the first flask via cannula. After the 20 minutes the contents of the first flask was transferred to the second flask via cannula. The second flask was cooled to 0° C. This solution was stirred for 20 minutes, then 5 g (0.016 mole) 2-iodo-5-methoxy-N,N-dimethylbenzeneethanamine in 20 ml dry tetrahydrofuran was added via syringe. 0.32 g (mole 1%) tetrakis(triphenylphosphine) palladium was added to the reaction mixture which was stirred overnight at room temperature under nitrogen. Water was added to the reaction mixture and the organics were evaporated in vacuo. The residue was taken up in methanol, the solid catalyst was filtered off and the methanol was evaporated in vacuo. Methylene chloride was added to the aqueous residue, the organic layer was washed with sodium bicarbonate solution, water, brine solution and dried over potassium carbonate. The organics were evaporated in vacuo to give a red oil. Addition of ethereal hydrogen chloride gave white crystals which upon recrystallization from acetonitrile gave 1.27 g (27% yield) of 2-(1-hexynyl)-5-methoxy-N,N-dimethylbenzeneethanamine hydrochloride, mp 145.5°-147.5° C.

reactant | 1-hexyne | 0.027 mole, 2.7 ml | C#CCCCC | C6H10
reactant | n-BuLi | [Li]CCCC
reactant | 2-iodo-5-methoxy-N,N-dimethylbenzeneethanamine | 0.016 mole, 5 g | IC1=C(C=C(C=C1)OC)CCN(C)C | C11H16INO
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 0.027 mole, 3.2 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine) palladium | 0.32 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Water | O | H2O
product | 2-(1-hexynyl)-5-methoxy-N,N-dimethylbenzeneethanamine hydrochloride | 1.27 g, 27% yield | Cl.C(#CCCCC)C1=C(C=C(C=C1)OC)CCN(C)C | InChI=1S/C17H25NO.ClH/c1-5-6-7-8-9-15-10-11-17(19-4)14-16(15)12-13-18(2)3;/h10-11,14H,5-7,12-13H2,1-4H3;1H
